US05594021
A. 2-Methylbenzo[b]thiophene
t-BuLi (1.7M, 26 mmoles, 15 ml) was added to a stirred solution of benzo[b]thiophene (17 mmoles, 2.3 g) and THF (30 ml) at -50° C. The resulting bright yellow reaction mixture was warmed to -30° C., and iodomethane (26 mmoles, 1.6 ml) was added. After 10 min. at -30° C., the solution was warmed to ambient temperature and stirred an additional 30 min., then diluted with ether (100 ml) and washed with brine (2×100 ml). The organic phase was dried (MgSO4), filtered and concentrated to collect 2.48 g (98%) of 2-methylbenzo[b]thiophene as a light yellow solid.

reactant | t-BuLi | 26 mmoles, 1.7M, 15 ml | [Li]C(C)(C)C
reactant | benzo[b]thiophene | 17 mmoles, 2.3 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | iodomethane | 26 mmoles, 1.6 ml | IC | CH3I
solvent | ether | 100 ml | CCOCC | C4H10O
product | 2-Methylbenzo[b]thiophene | CC1=CC2=C(S1)C=CC=C2 | C9H8S
